US06380210B1
A solution of 0.2 mL of 0.2M (2,5-difluorophenyl)-N-{[5-(chloromethyl)-1-propylbenzimidazol-2-yl]methyl}-N-propylcarboxamide in 1-methyl-2-pyrrolidinone is treated at room temperature for 16 hr with 0.3 mL of 0.2M solution of morpholine in toluene. The resulting mixture is diluted with 2 mL of ethyl acetate and washed 2×2 mL of water 1×2 mL brine. The ethyl acetate layer is dried over anhydrous Na2SO4 and concentrated in vacuo to afford 70% of (2,5-difluorophenyl)-N-{[5-(morpholin-4-ylmethyl)-1-propylbenzimidazol-2-yl]methyl}-N-propylcarboxamide.

reactant | (2,5-difluorophenyl)-N-{[5-(chloromethyl)-1-propylbenzimidazol-2-yl]methyl}-N-propylcarboxamide | 0.2M, 0.2 mL | FC1=C(C=C(C=C1)F)C(=O)N(CCC)CC1=NC2=C(N1CCC)C=CC(=C2)CCl | C22H24ClF2N3O
reactant | morpholine | N1CCOCC1 | C4H9NO
solvent | 1-methyl-2-pyrrolidinone | CN1C(CCC1)=O | C5H9NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
product | (2,5-difluorophenyl)-N-{[5-(morpholin-4-ylmethyl)-1-propylbenzimidazol-2-yl]methyl}-N-propylcarboxamide | 70% | FC1=C(C=C(C=C1)F)C(=O)N(CCC)CC1=NC2=C(N1CCC)C=CC(=C2)CN2CCOCC2 | C26H32F2N4O2
